data/rdb19/train.csv
rxn,smiles,ea
5231,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[N:25]([C:26](=[O:27])[H:38])[H:37],66.0938788811909
1675,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:16]([C:15]([H:23])[H:24])([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25],32.1777610607096
2411,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])([H:22])[H:23])([N:12]([C:13](=[O:14])[H:25])[H:24])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[H:20])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[N:12]([C:13](=[O:14])[H:25])[H:24])([H:18])[H:19])([H:15])([H:16])[H:17],21.017181264032843
3216,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:23]([C:22]([C:21]([H:32])([H:33])[H:34])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:24])[H:25],23.598234132805374
3091,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])([H:15])[C:18]([C:17]([C:16]([H:25])([H:26])[H:27])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:19])[H:20])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],12.040425212297125
2538,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22](=[C:23]([H:30])[H:31])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:23]([C:22]([C:21]([C:20]([H:24])([H:25])[H:26])([H:27])[H:28])[H:29])([H:30])[H:31])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],15.091503085801378
3276,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[N:25]([C:26](=[O:27])[H:34])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([H:7])([H:8])([H:9])[C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([H:24])[N:25]([C:26](=[O:27])[H:34])[H:33].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],59.67295108130202
4101,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:27]1([H:41])[C:26]([H:40])[C:25]([H:39])=[C:24]([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:29]([H:43])=[C:28]1[H:42])([H:12])[H:13])([H:9])([H:10])[H:11],23.25849994446617
5038,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:24])([H:21])([H:22])[H:23].[C:1]([O:2][H:25])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],75.76986475725425
